* NMOS Self-Biased Common Source Operating Point
* A BSS123 n-channel MOSFET in a classic self-biased common-source
* configuration. The gate divider sets VGS above threshold while a source
* resistor stabilizes the quiescent drain current. .op exposes ID,
* VGS, VDS and the small-signal gm / gds for the operating point.
* Devices exercised: V, R, M (NMOS bundled BSS123).

.title NMOS Self-Biased Common Source
.include "../../resources/models/ngspice/testcircuit_discrete.lib"

* --- Supply ---
Vdd vdd 0 DC 5

* --- Gate bias divider (high impedance) ---
Rg1 vdd gate 1.27Meg
Rg2 gate 0   1Meg

* --- Drain load and source degeneration ---
Rd vdd drain 1k
Rs src  0    220

* --- NMOS device (drain / gate / source / body) ---
M1 drain gate src src BSS123

* --- Analysis: DC operating point ---
.op

.end
